US08039455B2
d) 5-(2,2-Dimethyl-propyl)-isoxazole-3-carbonitrile
A mixture of 5-(2,2-dimethyl-propyl)-isoxazole-3-carboxylic acid tert-butylamide (58.0 g, 0.243 mol) and phosphorus (III) oxychloride (156 ml, 1.70 mol) is heated under nitrogen atmosphere at reflux temperature for 2 h. The reaction mixture is cooled to rt and concentrated to remove excess phosphorus (III) oxychloride. The residue is diluted with DCM (2000 ml) and washed with saturated aq sodium bicarbonate (500 ml×2). The organic layer is washed with brine, dried over sodium sulfate, and concentrated. The residue is purified by chromatography on silica (DCM/hexanes 1/1) to yield the target compound as yellow liquid.

reactant | 5-(2,2-dimethyl-propyl)-isoxazole-3-carboxylic acid tert-butylamide | 0.243 mol, 58.0 g | C(C)(C)(C)NC(=O)C1=NOC(=C1)CC(C)(C)C | C13H22N2O2
reactant | phosphorus (III) oxychloride | 1.70 mol, 156 ml | O(Cl)Cl.[P+3]
product | 5-(2,2-Dimethyl-propyl)-isoxazole-3-carbonitrile | CC(CC1=CC(=NO1)C#N)(C)C | C9H12N2O
